US04831032
2.20 g. (9.2 mMole) 5,6-dinitro-1-methylbenzimidazol-2-one is hydrogenated for 3 hours at 60° C. and 100 bar hydrogen pressure in 730 ml. methanol in the presence of 0.44 g. platinum oxide. The solution of 5,6-diamino-1-methyl-benzimidazol-2-one so obtained is, after filtration, used without further purification.

reactant | 5,6-dinitro-1-methylbenzimidazol-2-one | 9.2 mMole | [N+](=O)([O-])C1=CC2=C(N(C(N2)=O)C)C=C1[N+](=O)[O-] | C8H6N4O5
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
solvent | methanol | CO | CH4O
product | 5,6-diamino-1-methyl-benzimidazol-2-one | NC1=CC2=C(N(C(N2)=O)C)C=C1N | C8H10N4O
